US05665754
trans-3-(3-Cyclopentoxy-4-methoxyphenyl)-4-methoxycarbonyl-1-(phenylmethyl)pyrrolidine (3.5 g, 8.6 mmol) was dissolved in 20 mL of 4% HCO2H:methanol. While stirring at room temperature, 10% Pd/C (450 mg) was added in small portions. After several hours the reaction was diluted with methanol. Filtration through Celite followed by concentration under reduced pressure yielded a yellow oil residue. This residue was partitioned between CH2Cl2 and sat. NaHCO3. The layers were separated and the aqueous layer was extracted with CH2Cl2 (2×). The organic layers were combined, dried (K2CO3), filtered, and concentrated under reduced pressure to afford a pale oil. Chromatography on silica gel (8:1:1, CH2Cl2 :ethyl acetate:methanol) provided trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-(methoxycarbonyl)pyrrolidine as a colorless oil (2.3 g, 84%). 1H-NMR (300 MHz): δ 2.86-3.04 (m, 2), 3.29-3.52 (m, 4), 3.68 (s, 3), 3.83 (s, 3).

reactant | trans-3-(3-Cyclopentoxy-4-methoxyphenyl)-4-methoxycarbonyl-1-(phenylmethyl)pyrrolidine | 8.6 mmol, 3.5 g | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CN(C[C@H]1C(=O)OC)CC1=CC=CC=C1 | C25H31NO4
solvent | HCO2H | 20 mL | C(=O)O | CH2O2
solvent | methanol | CO | CH4O
catalyst | Pd/C | 450 mg | [Pd] | Pd
product | trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-(methoxycarbonyl)pyrrolidine | 2.3 g, 84% | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CNC[C@H]1C(=O)OC | C18H25NO4
